US04281141
3-(imidazol-4-yl)-2-phenyl-2-(4-trifluoromethylphenyl)propanenitrile
A 3.84 g. portion of 2-phenyl-2-(4-trifluoromethylphenyl)acetonitrile was reacted with 1.42 g. of 50% sodium hydride and 2.25 g. of 4-chloromethylimidazole hydrochloride in 50 ml. of dimethylformamide, as described in Example 1. The mixture was stirred for 2 hours at 60° C., and for 20 hours at ambient temperature. The reaction mixture was then worked up as described in Example 1 to obtain 3.6 g. of the desired product as the free base, a sample of which was analyzed as follows.

reactant | 2-phenyl-2-(4-trifluoromethylphenyl)acetonitrile | C1(=CC=CC=C1)C(C#N)C1=CC=C(C=C1)C(F)(F)F | C15H10F3N
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloromethylimidazole hydrochloride | Cl.ClCC=1N=CNC1
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(imidazol-4-yl)-2-phenyl-2-(4-trifluoromethylphenyl)propanenitrile | N1C=NC(=C1)CC(C#N)(C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C19H14F3N3
